US06969725B2
a] (S)-4-Benzyl-3-[(2S)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-propionyl]-oxazolidin-2-one
In analogy to the procedure described in example 1 c], (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one (example 1 a]) was treated with triethylsilane in trifluoroacetic acid to yield the title compound as colorless liquid.

reactant | (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionyl]-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C29H31NO6
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-4-Benzyl-3-[(2S)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-propionyl]-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C29H31NO5
